US08877782B2
6-{[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-N-isopropyl-nicotinamide
A solution of trimethylaluminium (2 M in toluene, 410 μL, 0.8 mmol) was added dropwise (exothermic) to a solution of isopropylamine (48 mg, 70 μL, 0.8 mmol) in dioxane (5 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester (70 mg, 0.2 mmol) in dioxane (2.5 mL) was added. The resulting mixture was then heated at 85-95° C. for 5 h and then cooled to room temperature and then poured into a sodium potassium tartrate solution and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 0:100) afforded the title compound (53 mg, 70%) which was obtained as an off white foam. MS: m/e=369.4 [M+H]+.

reactant | trimethylaluminium | 0.8 mmol, 2 M, 410 μL | C[Al](C)C
reactant | isopropylamine | 0.8 mmol, 70 μL, 48 mg | C(C)(C)N | C3H9N
reactant | 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester | 0.2 mmol, 70 mg | COC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C18H16FN3O3
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 6-{[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-N-isopropyl-nicotinamide | 53 mg, 70% | FC1=CC=C(C=C1)C1=NOC(=C1CNC1=NC=C(C(=O)NC(C)C)C=C1)C | C20H21FN4O2
